* C:\UTN\2024\TC2\Mi_Repo\TC2\TS11\Ej2.asc
L1 N001 Vi {L1} Rser=0
L2 N002 N001 {L2} Rser=0
C1 N002 0 {C1}
L3 Vo N001 {L3} Rser=0
L4 N003 Vo {L4} Rser=0
C2 N003 0 {C2}
V1 Vi 0 AC 1 0
R1 Vo 0 100000T
.param Ww=(2*pi)
.param L1=(32)/(45*Ww)
.param L2=(68)/(225*Ww)
.param L3=(374)/(135*Ww)
.param L4=1/(Ww)
.param C1=(25)/(68*Ww)
.param C2=(1)/(2*Ww)
.net I(R1) V1
.ac dec 1000 0.0001 100000
.backanno
.end
